US06743776B2
To a suspension of magnesium turnings (0.48 g) in tetrahydrofuran (10 ml) was added dropwise a solution of 4-hexyloxybromobenzene (5 g) in tetrahydrofuran (70 ml) and stirred for 1 hour at ambient temperature. Then to the reaction mixture was added 1-benzyloxycarbonyl-4-piperidone (4.12 g) and stirred for 2 hours under ice-cooling. The reaction was quenched with saturated NH4Cl aq. and extracted with ethyl acetate. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and filtrate was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with (hexane/ethyl acetate)=(3/1). The fractions containing the object compound were collected and evaporated under reduced pressure to give 1-benzyloxycarbonyl-4-(4-hexyloxyphenyl)-4-hydroxypiperidine (3.44 g).

reactant | magnesium | 0.48 g | [Mg] | Mg
reactant | 4-hexyloxybromobenzene | 5 g | C(CCCCC)OC1=CC=C(C=C1)Br | C12H17BrO
reactant | 1-benzyloxycarbonyl-4-piperidone | 4.12 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 1-benzyloxycarbonyl-4-(4-hexyloxyphenyl)-4-hydroxypiperidine | 3.44 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(O)C1=CC=C(C=C1)OCCCCCC | C25H33NO4
